US04720445
Preparation of Maleimide-Butyl Vinyl Ether Copolymer
A polymer was prepared in the manner of Example 1, except the comonomer to maleimide was n-butyl vinyl ether. The polymer yield was 54%.

reactant | maleimide | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | n-butyl vinyl ether | C(=C)OCCCC | C6H12O
product | Maleimide Butyl Vinyl Ether | yield was 54% | C1(C=CC(N1)=O)=O.C(=C)OCCCC | InChI=1S/C6H12O.C4H3NO2/c1-3-5-6-7-4-2;6-3-1-2-4(7)5-3/h4H,2-3,5-6H2,1H3;1-2H,(H,5,6,7)
